US04321268
Preparation of p-chlorobenzoylphenyl nicotinate
15 g (64.5 mmol) of p-chlorobenzoylphenol and 12 g (68 mmol) of nicotinic acid chloride hydrochloride was mixed with 200 ml dry pyridine and stirred for 24 hours at 40° C. After cooling 200 ml water were added and the precipitated product washed twice with 80 ml of water and recrystallized from methanol.

reactant | p-chlorobenzoylphenol | 64.5 mmol, 15 g | ClC1=CC(=C(C=C1)O)C(C1=CC=CC=C1)=O | C13H9ClO2
reactant | nicotinic acid chloride hydrochloride | 68 mmol, 12 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 200 ml | O | H2O
product | p-chlorobenzoylphenyl nicotinate | C(C1=CN=CC=C1)(=O)OC1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C19H12ClNO3
